US09193692B2
C. 6-(4-(4H-1,2,4-Triazol-3-yl)phenyl)-4-ethyl-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one hydrochloride
4-Ethyl-6-(4-(4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazol-3-yl)phenyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one in ethanol was treated with 2 N hydrogen chloride in dioxane. The solution was stirred at 75° C. for 1 h. The solution was condensed partially and cooled. Cold ethanol was added to the slurry and the resulting precipitate filtered and washed with additional cold ethanol followed by hexanes to afford the title compound as the hydrochloride salt in 82% yield. 1H NMR (400 MHz, METHANOL-d4) δ (ppm) 9.18 (s, 1H), 8.22 (d, J=8.59 Hz, 2H), 8.04-8.09 (m, 3H), 7.66-7.74 (m, 1H), 7.58-7.64 (m, 1H), 4.24 (s, 2H), 3.74 (q, J=7.03 Hz, 2H), 1.29 (t, J=7.03 Hz, 4H), 0.79-0.98 (m, 4H); MS (ESI) m/z 322.2 [M+1]+.

reactant | 4-Ethyl-6-(4-(4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazol-3-yl)phenyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | C(C)N1CC(NC2=NC=C(N=C21)C2=CC=C(C=C2)C2=NN=CN2C2OCCCC2)=O | C21H23N7O2
reactant | hydrogen chloride | 2 N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-(4-(4H-1,2,4-Triazol-3-yl)phenyl)-4-ethyl-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one hydrochloride | 82% yield | Cl.N=1N=C(NC1)C1=CC=C(C=C1)C=1N=C2C(=NC1)NC(CN2CC)=O | InChI=1S/C16H15N7O.ClH/c1-2-23-8-13(24)21-15-16(23)20-12(7-17-15)10-3-5-11(6-4-10)14-18-9-19-22-14;/h3-7,9H,2,8H2,1H3,(H,17,21,24)(H,18,19,22);1H
